US06706707B2
b) 5-(2-Bromo-3,5-dimethyl-3H-imidazol-4-yl)-3-methyl-[1,2,4]oxadiazole
To a stirred solution of 5-(3,5-dimethyl-3H-imidazol-4-yl)-3-methyl-[1,2,4]oxadiazol (0.7 g, 3.93 mmol) in chloroform (7 ml) was added dropwise at RT a solution of bromine (0.94 g, 0.30 ml, 5.89 mmol) in chloroform (7 ml). The reaction mixture was stirred at RT for 26 h, evaporated, poured into sat. NaHCO3 solution (40 ml) and extracted with dichloromethane (2×30 ml). The combined organic layers were washed with brine (40 ml), dried (MgSO4) and evaporated to give the crude product as yellow oil (0.84 g). Purification by column chromatography on silica gel (ethyl acetate/MeOH 98:2) gave the title compound (0.52 g, 51%) as a white solid, m.p. 89° C. and MS: m/e=256, 258 (M+).

reactant | 5-(3,5-dimethyl-3H-imidazol-4-yl)-3-methyl-[1,2,4]oxadiazol | 3.93 mmol, 0.7 g | CN1C=NC(=C1C1=NC(=NO1)C)C | C8H10N4O
reactant | bromine | 5.89 mmol, 0.30 ml, 0.94 g | BrBr | Br2
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(2-Bromo-3,5-dimethyl-3H-imidazol-4-yl)-3-methyl-[1,2,4]oxadiazole | 0.52 g, 51% | BrC1=NC(=C(N1C)C1=NC(=NO1)C)C | C8H9BrN4O
